US04546193
3-Amino-6,7,8,9,10,11-hexahydro-N,N-dimethyl-5H-cyclooct[b]indole-5-propanamine was prepared following the procedure of Example 1, using 6,7,8,9,10,11-hexahydro-N,N-dimethyl-3-nitro-5H-cyclooct[b]indole-5-propanamine instead of 6,7,8,9,10,11-hexahydro-N,N-dimethyl-1-nitro-5H-cyclooct[b]indole-5-propanamine and was converted to the dihydrochloride salt; m.p. 235°-238° C.

reactant | 6,7,8,9,10,11-hexahydro-N,N-dimethyl-3-nitro-5H-cyclooct[b]indole-5-propanamine | CN(CCCN1C2=C(C3=CC=C(C=C13)[N+](=O)[O-])CCCCCC2)C | C19H27N3O2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 3-Amino-6,7,8,9,10,11-hexahydro-N,N-dimethyl-5H-cyclooct[b]indole-5-propanamine | NC1=CC=C2C3=C(N(C2=C1)CCCN(C)C)CCCCCC3 | C19H29N3
